US04060541
86.8 g (0.1 mol) of 1,1-bis-(4-hydroxyphenyl)-cyclo hexane are suspended in 500 ml of water and 300 ml of methylene chloride at about 0° to 3° C. 20 ml (0.4 mol) of cyanogen chloride are added to this suspension and a solution of 10.6 g (0.1 mol) of Na2CO3 in 50 ml of water is added dropwise over the course of 90 minutes at the same temperature, with vigorous stirring, in such a way that a pH value between 7.5 and 8.5 is maintained in the reaction mixture. Thereafter, 1 N NaOH is added at 0° C in such a way that the abovementioned pH value is maintained, and persists as the final value. Thereafter, the organic phase is separated off and washed with 50 ml of water and the solvent is stripped off at room temperature. 29 g (99% of theory) of 1-(4-hydroxyphenyl)-1-(4-cyanatophenyl)-cyclohexane are thus obtained.

reactant | 1,1-bis-(4-hydroxyphenyl)-cyclo hexane | 0.1 mol, 86.8 g | OC1=CC=C(C=C1)C1(CCCCC1)C1=CC=C(C=C1)O | C18H20O2
reactant | cyanogen chloride | 0.4 mol, 20 ml | N#CCl | CClN
reactant | Na2CO3 | 0.1 mol, 10.6 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | water | 500 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-hydroxyphenyl)-1-(4-cyanatophenyl)-cyclohexane | 29 g, 99% | OC1=CC=C(C=C1)C1(CCCCC1)C1=CC=C(C=C1)OC#N | C19H19NO2
